US08193227B2
N-(2,2-diethoxyethyl)-N-[(2-methyl-1,3-thiazol-4-yl)methyl]amine
4-Chloromethyl-2-methylthiazole (0.6 g, 4 mmol) was added to aminoacetaldehyde diethyl acetal (5 mL, 10 equivalents) dissolved in tetrahydrofuran (15 mL) at 25° C., and the mixture was stirred for 16 h. The solvents were evaporated and the excess aldehyde was distilled from the crude mixture. The crude residue was purified using dichloromethane—dichloromethane/10% methanol to give 0.76 g (76%) of the title compound.

reactant | 4-Chloromethyl-2-methylthiazole | 4 mmol, 0.6 g | ClCC=1N=C(SC1)C | C5H6ClNS
reactant | aminoacetaldehyde diethyl acetal | 5 mL, 10 equivalents | C(C)OC(CN)OCC | C6H15NO2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-(2,2-diethoxyethyl)-N-[(2-methyl-1,3-thiazol-4-yl)methyl]amine | 0.76 g, 76% | C(C)OC(CNCC=1N=C(SC1)C)OCC | C11H20N2O2S
